US07186749B2
Step 1: 2-(6-Methoxy-2-naphthyl)-1,5-diphenyl-1H-pyrrole.
In a similar manner as described in step 1 of Example 8, the title compound was prepared from 1-(6-methoxy-2-naphthyl)-4-phenylbutane-1,4-dione (1.50 g, 4.71 mmol), prepared in step 3 of Example 1, and aniline (3.07 g, 33.0 mmol). Purification on silica gel (500 g, 200–300 mesh) using 0% to 50% methylene chloride in hexane as the eluent gave 2-(6-methoxy-2-naphthyl)-1,5-diphenyl-1H-pyrrole as an off-white solid (1.36 g, 77%), mp 199–200° C. Elemental Analysis for C27H21NO.0.11 CH2Cl2 Calc'd: C, 84.62; H, 5.56; N, 3.64. Found: C, 84.55; H, 5.67; N, 3.61.

reactant | 1-(6-methoxy-2-naphthyl)-4-phenylbutane-1,4-dione | 4.71 mmol, 1.50 g | COC=1C=C2C=CC(=CC2=CC1)C(CCC(=O)C1=CC=CC=C1)=O | C21H18O3
reactant | aniline | 33.0 mmol, 3.07 g | NC1=CC=CC=C1 | C6H7N
product | 2-(6-methoxy-2-naphthyl)-1,5-diphenyl-1H-pyrrole | 1.36 g, 77% | COC=1C=C2C=CC(=CC2=CC1)C=1N(C(=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H21NO
